Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
___ / trazodone / Ultram
 
Attending: ___.
 
Chief Complaint:
Increasing frequency of seizures
 
Major Surgical or Invasive Procedure:
video EEG

 
History of Present Illness:
Ms ___ is a ___ year old right handed woman with a
history of primary generalized epilepsy who is presenting with
increase in seizure frequency.   At age ___ she was experiencing 
a
myoclonic jerking in the early morning hours.  A year later when
she was ___ years old she continued to have more frequent 
jerking.
At ___ years of age she had similar jerking of her extremities in
the morning followed by a generalized seizure and postictal
phase.  At that time, she was working in the ___ with her
hands jerking more than usual that morning.  She was given a
diagnosis of juvenile myoclonic epilepsy; however, there does 
not
seem to be episodes of absence seizures that she reports.  She
started on Depakote.  However, when she was pregnant with her
son, she was weaned off her medications and soon after delivery
she had another seizure and was restarted back on medication. 
Her seizures were controlled on the Depakote for sometime until
recently.   She describes having a generalized convulsion every 
1
to ___ years.   In ___ she had a generalized seizure
while she was sitting in a car.  After this she was started on
Lamictal along with the Depakote.  On ___ she had 
a
generalized seizure, she fell back and hit her head badly during
the seizure. During the seizure she had some trouble speaking 
and
her words were getting out backwards.  She then began having
atypical episodes which lead to her lamictal being uptitrated. 
She had another generalized seizure in ___ which resulted in a
severe car accident for which she went to ___ rehab.  
While in rehab they began weaning her off of the depakote and
onto Lamictal monotherapy.   This decision was based mostly on
the long term side effects of depakote and weight gain with her
already difficulties with obstructive sleep apnea.   She had
another seizure during this transition but it was unclear what
does she was on at that time.   

Nonetheless she continued to have an increase in not only
generalized seizures but since being on lamictal monotherapy
began to develop "auras."  She describes these auras as episodes
of extreme exhaustion, a 'rush through her whole body'  If she
did not take ativan when these auras occur she would begin to
have rhythmic jerking movements of her hands followed by a
generalized seizure.   Because of this increase in frequency she
was admitted to the Epilepsy service at ___ from ___ to
___.  During this admission she reportedly had one
generalized tonic-clonic seizure, although it was unclear if 
this
was captured on EEG as telemetry did not reveal any  seizures.  
Nonetheless she had multiple push buttons for twitching,
spaciness, fatigue, all of which generally correlated with brief
generalized spike/wave and polyspike discharges.   She was
initiated on clobazam and was titrated up to 10 mg BID and
discharged home.  

Since that admission she has continued to decline with frequent
auras and generalized seizures.  She has continued to be 
titrated
up on the clobazam up to ___ and remains on lamictal 475 mg
BID.  

Her current frequency is about 2 per month of the generalized
tonic clonic seizures lasting about 1 minute and 1 per week of
the aura.  She also describes worsening of her gait and
cognition.  She can no longer walk supportive and is very
emotional.  She states she has had frequent visits with her
therapist, however she is depressed and anxious because she is
living in constant fear that she is going to have another
seizure.  
She also has sleep apnea, does not use a C-PAP mask and has
previously not noted sleep apnea as
a trigger for her seizures.  

 
Past Medical History:
- epilepsy as per HPI, frequent morning myoclonic jerks  
- insomnia, OSA on CPAP  
- major depression, no history of SI/HI  
- chronic pain from an MVA in ___ due to a seizure while
driving  
- fibromyalgia  
- GERD  
- C-section ___  
- gallbladder removal in ___
 
Social History:
___
Family History:
Negative for epilepsy or other genetic neurological disorders.  
 
Physical Exam:
ADMISSION EXAM:
Physical Exam:
T 99.4 HR: 72 BP 124/79 RR:16 98% RA 
General: Awake, cooperative, NAD, tearful
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities:warm and well perfused
Skin: no rashes or lesions noted.
.
Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history 
with
mild difficulty, but help from her husband.  She is inattentive
unable to get the months of the year in reverse and needing
fairly frequent redirection and re explanation.  It took her
multiple attempts to register 3 objects.  Language is fluent. 
There were no paraphasic errors.  Pt. was able to name both high
and low frequency objects.  Able to read without difficulty. 
Speech was not dysarthric. Able to follow both midline and
appendicular commands.
.
-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk.  VFF to confrontation. 
III, IV, VI: EOMI without nystagmus.  Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
.
-Motor: Normal bulk, tone throughout. Give away strength with
poor effort
-Sensory: no extinction to double simultaneous stimulation.
-DTRs: 2+ throughout
-Coordination:  No dysmetria on finger nose finger.
-Gait: exhaturated fall responce toward chair, very unstable if
not supported.  

DISCHARGE EXAM:
Mental status: NAD, anxious with slightly slowed speech and 
flattened affect, but she does smile and laugh spontaneously 
during conversation. Speech is fluent with no paraphasic errors 
and intact prosidy. Awake, alert, attentive, follows commands 

CN: PERRL, EOMI with ___ beats of coarse nystagmus with 
horizontal end-gaze, no facial movement asymmetry, palate 
elevates symmetrically, tongue protrudes in the midline.
Motor: Full strength in distal and proximal muscles groups in 
all four
limbs; gait is normal. No pronation or drift
Coordination: Finger to nose intact bilaterally

 
Pertinent Results:
___ 06:05AM BLOOD WBC-6.5 RBC-4.63 Hgb-13.3 Hct-38.9 MCV-84 
MCH-28.8 MCHC-34.2 RDW-14.0 Plt ___
___ 06:05AM BLOOD Plt ___
___ 06:05AM BLOOD Glucose-102* UreaN-17 Creat-0.5 Na-140 
K-4.1 Cl-100 HCO3-31 AnGap-13
___ 06:05AM BLOOD Calcium-9.5 Phos-4.2 Mg-1.9
___ 10:40AM BLOOD ALT-19 AST-19 LD(LDH)-164 AlkPhos-61 
TotBili-0.3

___ 06:05AM BLOOD Valproa-PND
___ 10:40AM BLOOD Valproa-101*
___ 06:55AM BLOOD Valproa-89

___ 02:30PM BLOOD TSH-0.66
 
Brief Hospital Course:
Ms. ___ was admitted to the epilepsy service for long term 
video EEG monitoring which showed fairly frequent bursts of 
generalized discharges without clinical correlate. During her 
hospitalization, she was weaned off lamotrigine and titrated up 
to 1000 mg ER of depakote, which she is to take at night daily. 
Her clobazam ___ was continued during admission and she will 
resume this as outpatient. Ms. ___ reports feeling much 
better on the new medication and does not report excessive 
sedation or sleep disturbance with Depakote. She has been 
intermittently anxious and tearful throughout the course of this 
admission. She will follow up with Dr. ___ as 
outpatient.

 
Medications on Admission:
1. Atorvastatin 20 mg PO DAILY 
2. Clobazam 20 mg PO QAM 
3. Clobazam 25 mg PO HS 
4. Omeprazole 20 mg PO DAILY 
5. Senna 1 TAB PO BID 
6. Sertraline 100 mg PO DAILY 
7. Vitamin D 50,000 UNIT PO 1X/WEEK (FR) 
8. Lamictal XR 475mg qpm
 
Discharge Medications:
1. Atorvastatin 20 mg PO DAILY 
2. Clobazam 20 mg PO QAM 
3. Clobazam 25 mg PO HS 
4. Omeprazole 20 mg PO DAILY 
5. Senna 1 TAB PO BID 
6. Sertraline 100 mg PO DAILY 
7. Vitamin D 50,000 UNIT PO 1X/WEEK (FR) 
8. Divalproex (EXTended Release) 1000 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
seizures

 
Discharge Condition:
Mental Status: Clear and coherent, anxious.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It has been a pleasure to be involved in your care during this 
hospitalization. You were admitted to the epilepsy service at 
___ because of increasing seizure frequency and 
we wanted to catch these episodes. We weaned your lamicatal to 
off but continued your clobazam and monitored you on video EEG. 
Your EEG showed multiple seizures and we started you on Depakote 
XR 1000mg at bedtime. You report feeling good on this medication 
and you should continue to take this as your new anti seizure 
medication along with your clobazam.
 
Followup Instructions:
___